US07705023B2
5-(4-tert-Butylphenyl)-1-(6-isopropoxy-2-naphthyl)indole-2-carboxylic acid
The title compound was prepared in accordance with Example 1 using 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester and 2-bromo-6-isopropoxynaphthalene.

reactant | 5-(4-tert-butylphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C1=CC=C(C=C1)C(C)(C)C | C21H23NO2
reactant | 2-bromo-6-isopropoxynaphthalene | BrC1=CC2=CC=C(C=C2C=C1)OC(C)C | C13H13BrO
product | 5-(4-tert-Butylphenyl)-1-(6-isopropoxy-2-naphthyl)indole-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C2C=C(N(C2=CC1)C1=CC2=CC=C(C=C2C=C1)OC(C)C)C(=O)O | C32H31NO3
